US05773428
Alternatively, to a cold (0° C.) suspension of NaH (3.8 g of a 60% weight dispersion in mineral oil, 95.0 mmol) in THF (50 mL) was added a solution of glycolic acid (7.2 g, 95 mmol) in THF (50 mL) dropwise via cannula. The resulting solution was warmed to 25° C. and concentrated in vacuo. The resulting salt was suspended in DMF (100 mL) and treated with KI (1.57 g, 0.1 eq) and benzyl bromide (12.3 mL, 1.1 eq). The mixture was heated at 100° C. for 23 hours under argon and the DMF was evaporated. The residue was dissolved in ether and washed with water, saturated Na2S2O3, and brine, and dried over MgSO4. Distillation afforded benzyl glycolate (8.5 g, 54%) as a colorless oil, b.p. 85°-87° C. (0.5 Torr).

reactant | NaH | [H-].[Na+]
reactant | glycolic acid | 95 mmol, 7.2 g | C(CO)(=O)O | C2H4O3
reactant | benzyl bromide | 12.3 mL, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | benzyl glycolate | 8.5 g, 54% | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
